US05914339
5-{2-[2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid bis-(2-phenoxy-ethyl) ester hydrochloride salt
The title compound was prepared from 5-{2-[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid and 2-phenoxyethanol according to the procedure of Example 1 as an off-white gummy solid; 1H NMR (300 MHz, CDCl3): δ 1.23-1.40 (brs, 3H), 2.70-2.90 (brm, 1H), 3.05-3.30 (brm, 2H), 3.31-3.52 (brm, 2H), 4.12 (t, J=4.4 Hz, 4H), 4.57 (t, J=4.8 Hz, 4H), 5.38-5.60 (brs, 2H), 6.70-7.0 (complexm, 10H), 7.15-7.47 (complex m, 7H), 8.60-8.80 (brs, 1H), 9.90-10.20 (brs, 1H).; MS (ES) m/z (relative intensity): 662 (M+ -HCl, (100), 594 (20), 498 (35).

reactant | 5-{2-[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid | ClC=1C=C(C=CC1)C(CNC(CC1=CC2=C(OC(O2)(C(=O)O)C(=O)O)C=C1)C)O | C20H20ClNO7
reactant | 2-phenoxyethanol | O(C1=CC=CC=C1)CCO | C8H10O2
reactant | HCl | Cl | ClH
product | 5-{2-[2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid bis-(2-phenoxy-ethyl) ester hydrochloride salt | Cl.O(C1=CC=CC=C1)CCOC(=O)C1(OC2=C(O1)C=CC(=C2)CC(C)NCC(O)C2=CC(=CC=C2)Cl)C(=O)OCCOC2=CC=CC=C2 | InChI=1S/C36H36ClNO9.ClH/c1-25(38-24-31(39)27-9-8-10-28(37)23-27)21-26-15-16-32-33(22-26)47-36(46-32,34(40)44-19-17-42-29-11-4-2-5-12-29)35(41)45-20-18-43-30-13-6-3-7-14-30;/h2-16,22-23,25,31,38-39H,17-21,24H2,1H3;1H
